US04654343
N-Methyl-N-[3-(1,2,4-triazolo[4,3-b]pyridazin-6-yl)phenyl]acetamide
To 2.53 g of N-[3-(1,2,4-triazolo[4,3-b]pyridazin-6-yl)phenyl]acetamide in 100 ml of dry dimethylformamide was added 0.6 g of sodium hydride (50% in oil). This mixture was stirred under argon, for 1 hour, then 0.78 ml of methyl iodide was added. This mixture was stirred overnight, then poured into 300 ml of water and extracted with 50 ml portions of dichloromethane. The extracts were combined, dried and evaporated in vacuo. The residue was chromatographed on a silica gel column, eluting with dichloromethane:methanol (98:2). The active fractions were combined, evaporated and the solid recrystallized from dichloromethane-hexane, giving 1.39 g of the desired product as light orange crystals mp 166°-169° C.

reactant | N-[3-(1,2,4-triazolo[4,3-b]pyridazin-6-yl)phenyl]acetamide | 2.53 g | N=1N=CN2N=C(C=CC21)C=2C=C(C=CC2)NC(C)=O | C13H11N5O
reactant | sodium hydride | 0.6 g | [H-].[Na+]
reactant | methyl iodide | 0.78 ml | CI | CH3I
reactant | water | 300 ml | O | H2O
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | N-Methyl-N-[3-(1,2,4-triazolo[4,3-b]pyridazin-6-yl)phenyl]acetamide | 1.39 g | CN(C(C)=O)C1=CC(=CC=C1)C=1C=CC=2N(N1)C=NN2 | C14H13N5O
